US06277877B1
2-Amino-1thiazolidin-3-yl-ethanol hydrochloride
(2-Oxo-2-thiazolidin-3-yl-ethyl)-carbamic acid tert-butyl ester (5.41 g, 22 mmol) was dissolved in 4M HCl-dioxane (80 mL) at 0° C. The resulting solution was stirred at 25° C. for 2 hours, concentrated and the residue triturated with ether. Yield, 3.9 g, 97%.

reactant | (2-Oxo-2-thiazolidin-3-yl-ethyl)-carbamic acid tert-butyl ester | 22 mmol, 5.41 g | C(C)(C)(C)OC(NCC(N1CSCC1)=O)=O | C10H18N2O3S
reactant | HCl dioxane | 4M, 80 mL | Cl.O1CCOCC1
product | 2-Amino-1thiazolidin-3-yl-ethanol hydrochloride | Cl.NCC(O)N1CSCC1 | InChI=1S/C5H12N2OS.ClH/c6-3-5(8)7-1-2-9-4-7;/h5,8H,1-4,6H2;1H
